US09260408B2
[B] (R)—N-(3-(5-Bromopyridin-3-yl)oxetan-3-yl)-2-methylpropane-2-sulfinamide
To a solution of 3-bromo-5-iodopyridine (0.14 g, 0.493 mmol) in THF (2 mL) cooled at −78° C. was added nBuLi (462 μl, 0.74 mmol) dropwise over 5 min. The reaction mixture was stirred at −78° C. for 15 min, then (R)-2-methyl-N-(oxetan-3-ylidene)-propane-2-sulfinamide (0.1 g, 0.567 mmol) in THF (1 mL) was added dropwise. The reaction mixture was stirred at −78° C. for 10 min then allowed to warm up to RT. The mixture was quenched with water (2 mL) and extracted with EtOAc (2×10 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 100% EtOAc-heptane gradient to give the title compound (0.096 g, 58%) as a light yellow oil. MS: 333.0 and 335.1 (M+H+).

reactant | 3-bromo-5-iodopyridine | 0.493 mmol, 0.14 g | BrC=1C=NC=C(C1)I | C5H3BrIN
reactant | nBuLi | 0.74 mmol, 462 μl | [Li]CCCC
reactant | (R)-2-methyl-N-(oxetan-3-ylidene)-propane-2-sulfinamide | 0.567 mmol, 0.1 g | CC(C)(C)[S@@](=O)N=C1COC1 | C7H13NO2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (R)—N-(3-(5-Bromopyridin-3-yl)oxetan-3-yl)-2-methylpropane-2-sulfinamide | 0.096 g, 58% | BrC=1C=C(C=NC1)C1(COC1)N[S@](=O)C(C)(C)C | C12H17BrN2O2S
